US08614208B2
Production of ethyl 2-cyano-3-(methylsulfanyl)-3-(phenylamino)prop-2-enoate
A solution of ethyl 3,3-bis(methylthio)-2-cyanoacrylate (20.0 g, 91.2 mmol) and aniline (9.1 mL, 100 mmol) in ethanol (200 mL) was heated under reflux for 16 hr. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluate, hexane:ethyl acetate=98:2→1:1) to give the title compound (21.0 g, 88%) as a white powder.

reactant | ethyl 3,3-bis(methylthio)-2-cyanoacrylate | 91.2 mmol, 20.0 g | CSC(=C(C(=O)OCC)C#N)SC | C8H11NO2S2
reactant | aniline | 100 mmol, 9.1 mL | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 2-cyano-3-(methylsulfanyl)-3-(phenylamino)prop-2-enoate | 21.0 g, 88% | C(#N)C(C(=O)OCC)=C(NC1=CC=CC=C1)SC | C13H14N2O2S
